US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperidine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (187 mg, 0.696 mmol), 4-(4-phenyl-1,3-thiazol-2-yl)piperidine (170 mg, 0.696 mmol), diisopropylethylamine (0.121 ml, 0.696 mmol) and dimethylsulfoxide (3 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to obtain the desired product (84.0 mg, 33.1%) as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.696 mmol, 187 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 4-(4-phenyl-1,3-thiazol-2-yl)piperidine | 0.696 mmol, 170 mg | C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1 | C14H16N2S
reactant | diisopropylethylamine | 0.696 mmol, 0.121 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-3-ylpiperidine-1-carboxamide | 84.0 mg, 33.1% | C1(=CC=CC=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H20N4OS
